US07795280B2
b) N-[1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indol-6-yl]-acetamide (Compound 58, Structure 22 of Scheme V, where R1=3,5-difluorophenyl, R2=2-nitrophenyl, R3=R4=H, Z=methyl)
To a solution of N-[1-(3,5-Difluoro-benzyl)-1H-indol-6-yl]-acetamide (23.3 mg, 0.08 mmol) in diethyl ether (4 mL) was added 2-nitrobenzenesulfenyl chloride (14.7 mg, 0.09 mmol). The resulting yellow solution was stirred overnight at room temperature. The mixture was concentrated in vacuo and purified over a SiO2 column (heptane/ethyl acetate 9:1) to give the title compound as a yellow solid (35.0 mg, yield=96%).

reactant | N-[1-(3,5-Difluoro-benzyl)-1H-indol-6-yl]-acetamide | 0.08 mmol, 23.3 mg | FC=1C=C(CN2C=CC3=CC=C(C=C23)NC(C)=O)C=C(C1)F | C17H14F2N2O
reactant | 2-nitrobenzenesulfenyl chloride | 0.09 mmol, 14.7 mg | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | N-[1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indol-6-yl]-acetamide | 35.0 mg, yield=96% | FC=1C=C(CN2C=C(C3=CC=C(C=C23)NC(C)=O)SC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1)F | C23H17F2N3O3S
